US09145441B2
Compound 77b. (R)-4-Isopropyl-3-[(R)-2-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoyl]-oxazolidin-2-one
Residual moisture in (R)-4-isopropyl-3-((E)-2-methyl-but-2-enoyl)-oxazolidin-2-one (458.9 mg, 2.172 mmol) was removed by azeotroping with anhydrous toluene. A cooled (−78° C.) solution of dried (R)-4-isopropyl-3-((E)-2-methyl-but-2-enoyl)-oxazolidin-2-one in anhydrous toluene (10 mL) was treated dropwise with a solution of sodium bis(trimethylsily)amide in toluene (0.6 M, 5.4 mL, 3.258 mmol). After stirring the yellow solution at −78° C. for 35 min, 2-(trimethylsilyl)ethoxymethyl chloride (1.1 mL, 6.516 mmol) was added. After stirring at 0° C. for 3.5 h, the reaction was quenched with saturated ammonium chloride. The aqueous layer was extracted with dichloromethane (2×). The organics were combined, filtered through a phase separator and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 50 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 9:1 to afford the title compound (543.3 mg, 73%) as a colourless oil and as a 5:1 mixture of diastereoisomers. 1H NMR (300 MHz, CDCl3) δ 0.01 (s, 9H), 0.77-0.99 (m, 8H), 1.49 (s, 3H), 2.36 (d of heptet, J=6.9, 3.8 Hz, 1H), 3.42-3.60 (m, 3H), 4.15-4.31 (m, 3H), 4.49-4.57 (m, 1H), 5.00 (d, J=17.6 Hz, 1H), 5.10 (d, J=10.7, 1H), 6.19 (dd, J=17.8, 10.7 Hz, 1H). LCMS (m/z) 364.1 [M+Na], Tr=3.32 min.

reactant | (R)-4-isopropyl-3-((E)-2-methyl-but-2-enoyl)-oxazolidin-2-one | 2.172 mmol, 458.9 mg | C(C)(C)[C@H]1N(C(OC1)=O)C(\C(=C\C)\C)=O | C11H17NO3
reactant | sodium bis(trimethylsily)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | toluene | 3.258 mmol, 0.6 M, 5.4 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 6.516 mmol, 1.1 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
product | (R)-4-Isopropyl-3-[(R)-2-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoyl]-oxazolidin-2-one | 543.3 mg, 73% | C(C)(C)[C@H]1N(C(OC1)=O)C([C@](C=C)(COCC[Si](C)(C)C)C)=O | C17H31NO4Si
